* C:\Documents and Settings\Michael Walsh\My Documents\GitHub\SoilMoistureMan\Simulations\SoilMoisture_AstableMultivibrator_V006.sxsch
*#SIMETRIX
V1 VCC 0 3
R1 VCC R1_N 1K
R2 VCC R2_N 100k
R3 VCC R3_N 100k
R4 VCC OUT_N 1k
R5 R5_P R9_N 1k
R6 VCC R6_N 4.7k
R7 D6_N R7_N 470
R8 R5_P 0 220k
R9 OUT_N R9_N 10k
D4 D5_N D4_N D1N4148
D5 VCC D5_N D1N4148
D6 D4_N D6_N D1N4148
Q1 R1_N R3_N 0 0 QBC847C/PS
Q2 OUT_N R2_N 0 0 QBC847C/PS
Q3 R6_N R5_P 0 0 QBC847C/PS
Q4 R7_N R6_N 0 0 QBC847C/PS
C1 R2_N R1_N 100u  
C2 OUT_N R3_N 10u IC=0  BRANCH={IF(ANALYSIS=2,1,0)}
.GRAPH R5_P axisType="auto" persistence=-1 curveLabel="Q3-base" xLog="auto" yLog="auto"  nowarn=true' 
.GRAPH OUT_N axisType="auto" persistence=-1 curveLabel="ASTABLE_OUT" xLog="auto" yLog="auto"  nowarn=true' 
.GRAPH R7_N curveLabel= LED_OUT nowarn=true ylog=auto xlog=auto 
.TRAN 2m 10

